US08541421B2
2-Amino-3-methylbenzonitrile
To a solution of 2-bromo-6-methylaniline (126 μL, 1 mmol) in dry NMP (3 mL) was added CuCN (197 mg, 2.2 mmol). The mixture was irradiated in a microwave at 220° C. for 40 minutes, cooled to room temperature and poured into a mixture of ammonia (50% w/v, 10 mL) and ice. The mixture was stirred for 30 min and the product was extracted with dichloromethane (3×20 mL). The organic layers were combined, washed with water and brine, dried over MgSO4 and concentrated. The crude material was purified on silica gel (50% EtOAc/hexanes) to yield a brown oil that crystallized on standing (128 mg, 96%). 1H NMR (400 MHz, DMSO-d6) δ2.08 (s, 3H), 5.68 (bs, 2H), 6.51-6.55 (t, 1H), 7.17-7.19 (d, 1H), 7.22-7.24 (dd, 1H). MS 133 (MH+).

reactant | 2-bromo-6-methylaniline | 1 mmol, 126 μL | BrC1=C(N)C(=CC=C1)C | C7H8BrN
reactant | CuCN | 2.2 mmol, 197 mg | C(#N)[Cu]
reactant | ammonia | 10 mL | N | H3N
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | 2-Amino-3-methylbenzonitrile | NC1=C(C#N)C=CC=C1C | C8H8N2
